US09314023B2
A mixture of 3-(4-methoxy-3-methyl-phenyl)-1-methyl-1H-pyrazole 2.9 g, 47% hydrobromic acid 21 ml and acetic acid 21 ml was stirred with heating under reflux for twenty hours. The solvent was distilled off and to the resulting residues was added ethyl acetate 100 ml, and the resulting mixture was stirred at room temperature for one hour. The precipitates were filtered and were washed with hexane, and were concentrated under reduced pressure to give 2-methyl-4-(1-methyl-1H-pyrazol-3-yl)-phenol 2.45 g.

reactant | 3-(4-methoxy-3-methyl-phenyl)-1-methyl-1H-pyrazole | 21 ml, 2.9 g | COC1=C(C=C(C=C1)C1=NN(C=C1)C)C | C12H14N2O
solvent | acetic acid | 21 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-4-(1-methyl-1H-pyrazol-3-yl)-phenol | 2.45 g | CC1=C(C=CC(=C1)C1=NN(C=C1)C)O | C11H12N2O
